US05753647
a) 4-Chlorobenzoylpiperidone
40.0 g (0.26 mol) of 4-piperidone hydrochloride (× H2O) and 38.6 g of potassium carbonate are suspended in 300 ml of tetrahydrofuran. 45.4 g of 4-chlorobenzoyl chloride are added thereto with stirring and the mixture is reacted for 2 hours at ambient temperature and refluxed for 2 hours. The reaction mixture is evaporated down in vacuo, the residue is neutralized with 2N hydrochloric acid and extracted with dichloromethane. 38 g of a viscous oil are obtained from the organic phase after removal of the extraction agent.

reactant | 4-piperidone hydrochloride | 0.26 mol, 40.0 g | Cl.N1CCC(CC1)=O
reactant | potassium carbonate | 38.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chlorobenzoyl chloride | 45.4 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 4-Chlorobenzoylpiperidone | 38 g | ClC1=CC=C(C(=O)N2C(CCCC2)=O)C=C1 | C12H12ClNO2
